Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
intraparenchymal hemorrhage
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
The pt is a ___ yr old hx of HTN, afib on Coumadin , CAD s/p CABG
who was transferred from an OSH after he was found to have a
large IPH.

History per ED and his son who did not witnessed the event but
was told by his mother who is not at the bedside  . He was in 
his
usual; state of health till around 4.40 pm after he had dinner 
he
complained he was not feeling well, was fizzy , his gait was
unsteady to his wife . He went to lie down and soon  after was
noted to have loud breathing and became unresponsive. EMS was
called at the seen he was given a GCS of 3 with reported minimal
left hand movement. Vomited en rout to the OSH , his pupil were
noted to be pin-point so given Narcan and was intubated .

Further corollary history from wife: he was in his
usual state of health today, having gone to work today (parttime
___). Then later at home, he complained to his wife
of acute onset dizziness. She attributed this to the flu and 
left
him to rest. A few minutes later, she returned to find him not
moving, unresponsive. EMS arrived and brought him to ___
where he was intubated on arrival. 
 
Past Medical History:
HTN
Afib
CAD s/p CABG
 
Social History:
___
Family History:
Unknown
 
Physical Exam:
ADMISSION:

General:  NAD
HEENT: NCAT, intubated 
___: RRR, no M/R/G
Pulmonary: CTAB
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, mild pitting  edema

Neurologic Examination:
- Mental status: Intubated and sedated, does not respond to name
or sternal rub.
- Cranial Nerves: PERRL 1->0.5 mm symmetric, sluggish. No 
obvious
facial asymmetry. 
- Motor:  Normal bulk and tone. No movements in his UE. Triple
flexion in Left > right to noxious b/l

- Reflexes: 
   [Bic]  [___]     [Quad] [Gastroc]
 L  1+       1+     2+      2+       1
 R  1+       1+     2+      2+       1  

Plantar response extensor bilaterally 

- Sensory: withdraws to noxious in ___ but not in UE.

****************
DISCHARGE:
expired
 
Pertinent Results:
IMAGING EVALUATION:

CT head / CTA head and neck ___:
1. Left pontine hemorrhage extending into the left middle 
cerebellar peduncle
and the fourth ventricle is grossly unchanged compared to prior 
examination.
2. Minimal increased size of the lateral ventricles may be 
related to
positioning however developing hydrocephalus cannot be excluded 
and attention
on follow-up is recommended.
3. Extensive atherosclerotic disease as described without 
evidence of
occlusion or flow-limiting stenosis involving the circle of 
___ and its
major tributaries.
4. Heavy calcifications of the carotid bifurcations without 
significant
internal carotid artery stenosis by NASCET criteria.

 
Brief Hospital Course:
The patient was admitted to the Stroke ICU for further 
evaluation and monitoring of his intraparenchymal hemorrhage in 
setting of anticoagulation after NSGY declined intervention in 
ED. Upon arrival to ICU, his family and team had extensive 
conversations, in which they detailed that under no 
circumstances would he have wanted aggressive measures to 
prolong life in the scenario of a poor projected functional 
outcome. Given poor examination and evidence of increased 
intracranial pressure with high likelihood of herniation, it 
seemed very unlikely he would both survive and be returned to 
his previously independent state. Therefore, family unanimously 
decided to pursue comfort measures only, and he was extubated 
the next day and expired on ___.
 
Medications on Admission:
Coumadin
Otherwise unknown
 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
expired
 
Discharge Condition:
expired
 
Discharge Instructions:
expired
 
Followup Instructions:
___